US09403831B2
(S)-3-(1-((4-(5-bromopyrimidin-2-yl)morpholine-2-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)benzonitrile (30 mg, 0.063 mmol), 1-methyl-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzyl)piperazine (24 mg, 0.094 mmol), Pd(dppf)2Cl2 (2 mg, 0.003 mmol), and Cs2CO3(62 mg, 0.18 mmol) were dissolved in dioxane (4 ml)+H2O (1 ml), and then degassed with N2 (gas), followed by stirring at 80° C. for hours. After the completion of the reaction, the reaction mixture was extracted with H2O, EA, and brine, followed by drying (Na2SO4), filtration, and concentration under reduced pressure, and the residue was purified by column chromatography (MeOH:MC=1:10), to give (S)-3-(1-((4-(5-(4-((4-methylpiperazin-1-yl)methyl)phenyl)pyrimidin-2-yl)morpholine-2-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)benzonitrile (12.1 mg, 33%).

reactant | (S)-3-(1-((4-(5-bromopyrimidin-2-yl)morpholine-2-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)benzonitrile | 0.063 mmol, 30 mg | BrC=1C=NC(=NC1)N1C[C@H](OCC1)CN1N=NC=2C1=NC(=CN2)C=2C=C(C#N)C=CC2 | C20H16BrN9O
reactant | 1-methyl-4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzyl)piperazine | 0.094 mmol, 24 mg | CN1CCN(CC1)CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H29BN2O2
reactant | Cs2CO3 | 0.18 mmol, 62 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | H2O | 1 ml | O | H2O
catalyst | Pd(dppf)2Cl2 | 0.003 mmol, 2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-3-(1-((4-(5-(4-((4-methylpiperazin-1-yl)methyl)phenyl)pyrimidin-2-yl)morpholine-2-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)benzonitrile | 12.1 mg, 33% | CN1CCN(CC1)CC1=CC=C(C=C1)C=1C=NC(=NC1)N1C[C@H](OCC1)CN1N=NC=2C1=NC(=CN2)C=2C=C(C#N)C=CC2 | C32H33N11O
